US05212163
Dibenzyl (1-hydroxypropyl)phosphonate (D8)
The general method of F. Texier-Boullet and A. Foucaud [Synthesis, 1982, 916] was employed. A mixture of dibenzyl phosphite (31.13 ml, 0.14 mole) and propionaldehyde (10.21 ml, 1 equiv.) was stirred at room temperature and basic alumina (70 g) added in one portion. After standing overnight at room temperature chloroform was added and the alumina collected and washed with chloroform. The filtrate was evaporated to dryness and the resulting clear oil chromatographed on silica gel (600 g) with gradient elution (ether--5% methanol/ether). The title compound was obtained as a clear oil which solidified on standing (27.82 g, 64%). A sample was recrystallized from ether/pentane to give a white crystalline solid, m.p. 81°-82° C.

reactant | dibenzyl phosphite | 0.14 mole, 31.13 ml | P(OCC1=CC=CC=C1)(OCC1=CC=CC=C1)[O-]
reactant | propionaldehyde | 10.21 ml, 1 equiv. | C(CC)=O | C3H6O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | Dibenzyl (1-hydroxypropyl)phosphonate | OC(CC)P(OCC1=CC=CC=C1)(OCC1=CC=CC=C1)=O | C17H21O4P
